US08022222B2
Ethyl 6-(4-isopropylthiazol-2-ylamino)-4-phenoxynicotinate
Using the method of Example 3, Step B, ethyl 6-chloro-4-phenoxynicotinate (4.296 g, 15.47 mmol), 4-isopropylthiazol-2-amine (2 g, 14.06 mmol), potassium phosphate (3.283 g, 15.47 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.3219 g, 0.3516 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.2238 g, 0.3867 mmol) were reacted in water (15 mL) and toluene (40 mL) to afford the desired product (4.447 g, 74.22% yield) as a yellow solid. 1H NMR (DMSO), 11.36 (s, 1H), 8.72 (s, 1H), 7.49 (m, 2H), 7.30 (m, 1H), 7.17 (m, 1H), 7.15 (m, 1H), 6.59 (m, 2H), 4.24 (q, 2H), 2.81 (m, 1H), 1.25 (t 3H), 1.15 (d, 6H); Mass spectrum (apci) m/z=384 (100) (M+H).

reactant | ethyl 6-chloro-4-phenoxynicotinate | 15.47 mmol, 4.296 g | ClC1=NC=C(C(=O)OCC)C(=C1)OC1=CC=CC=C1 | C14H12ClNO3
reactant | 4-isopropylthiazol-2-amine | 14.06 mmol, 2 g | C(C)(C)C=1N=C(SC1)N | C6H10N2S
reactant | potassium phosphate | 15.47 mmol, 3.283 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.3516 mmol, 0.3219 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.3867 mmol, 0.2238 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | Ethyl 6-(4-isopropylthiazol-2-ylamino)-4-phenoxynicotinate | 4.447 g, 74.22% yield | C(C)(C)C=1N=C(SC1)NC1=NC=C(C(=O)OCC)C(=C1)OC1=CC=CC=C1 | C20H21N3O3S
